US07326732B2
(i) 6-(3,5-Dichloro-phenyl)-pyridine-2-carboxylic acid (131)
6-Bromo-pyridine-2-carboxylic acid (500 mg, 2.47 mmol) was coupled to 3,5-dichloro-phenylboronic acid (473 mg, 2.47 mmol) acid using Method F to give the title compound.

reactant | 6-Bromo-pyridine-2-carboxylic acid | 2.47 mmol, 500 mg | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 3,5-dichloro-phenylboronic acid | 2.47 mmol, 473 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 6-(3,5-Dichloro-phenyl)-pyridine-2-carboxylic acid | ClC=1C=C(C=C(C1)Cl)C1=CC=CC(=N1)C(=O)O | C12H7Cl2NO2
